US07282511B2
5-Bromo-N-methyl-8-nitro-1,2,3,4-tetrahydroisoquinoline
5-Bromo-8-nitroisoquinoline (216.9 g, 0.86 mol) was added in portions during 10 min to a solution of dimethylsulphate (750 ml). Some heat was developed. The mixture was heated at 100° C. for 10 minutes. 5-Bromo-2-methyl-8-nitroquinolinium methyl sulphate precipitated. The mixture was cooled on ice and diethyl ether (1 l) was added. The crude mixture was filtered and crystals were isolated. The salt was solved in acetic acid (1.5 l). To the ice-cooled mixture was added: sodium borohydride (47 g, 1.24 mol) over 4 hours. The temperature was kept below 30° C. The crude mixture was evaporated and sodium hydroxide (2 l, 1 M) was added. The crystals were filtered. Yield 205.2 g (88%). Mp 85-87° C.

reactant | 5-Bromo-8-nitroisoquinoline | 0.86 mol, 216.9 g | BrC1=C2C=CN=CC2=C(C=C1)[N+](=O)[O-] | C9H5BrN2O2
reactant | dimethylsulphate | 750 ml | COS(=O)(=O)OC | C2H6O4S
reactant | sodium borohydride | 1.24 mol, 47 g | [BH4-].[Na+]
solvent | acetic acid | 1.5 l | C(C)(=O)O | C2H4O2
product | 5-Bromo-N-methyl-8-nitro-1,2,3,4-tetrahydroisoquinoline | BrC1=C2CCN(CC2=C(C=C1)[N+](=O)[O-])C | C10H11BrN2O2
